US06313122B1
B. N-(4-Methoxyphenyl)-2-amino-6-fluorobenzamide
Using the procedure described in Example 91, Part B, 6-fluoroisatoic anhydride (11 mmol) and 4-methoxyaniline (11 mmol) yielded 2.34 g (84%) of the title compound.

reactant | 6-fluoroisatoic anhydride | 11 mmol | FC=1C=CC=C2C1C(=O)OC(N2)=O | C8H4FNO3
reactant | 4-methoxyaniline | 11 mmol | COC1=CC=C(N)C=C1 | C7H9NO
product | N-(4-Methoxyphenyl)-2-amino-6-fluorobenzamide | 2.34 g, 84% | COC1=CC=C(C=C1)NC(C1=C(C=CC=C1F)N)=O | C14H13FN2O2
